US04629787
In the same manner react the 3-(S)-amino-1-carboxymethylperhydroazepin-2-one with ethyl 4-(3-indolyl)-2-oxobutyrate to obtain 1-carboxymethyl-3-(S)-[(1-ethoxycarbonyl-3-(3-indolyl)propyl)amino]perhydroazepin-2-one. Standard alkaline hydrolysis (as in Example 3) of this material yields 1-carboxymethyl-3-(s)-[(1-carboxy-3-(3-indolyl)propyl)amino]perhydroazepin-2-one. Alternatively, esterification in HCl-ethanol affords 1-ethoxycarbonylmethyl-3-(S)-1-(1-ethoxycarbonyl-3-(3-indolyl)lpropyl)amino]perhydroazepin-2-one.

reactant | 3-(S)-amino-1-carboxymethylperhydroazepin-2-one | N[C@@H]1C(N(CCCC1)CC(=O)O)=O | C8H14N2O3
reactant | ethyl 4-(3-indolyl)-2-oxobutyrate | N1C=C(C2=CC=CC=C12)CCC(C(=O)OCC)=O | C14H15NO3
product | 1-carboxymethyl-3-(S)-[(1-ethoxycarbonyl-3-(3-indolyl)propyl)amino]perhydroazepin-2-one | C(=O)(O)CN1C([C@H](CCCC1)NC(CCC1=CNC2=CC=CC=C12)C(=O)OCC)=O | C22H29N3O5
